US06329381B1
6-Amino-9-benzyl-8-methoxy-2-propoxypurine
To 6-amino-9-benzyl-8-bromo-2-propoxypurine (123 mg, 0.339 mmol) in 10 ml of methanol was added 10N aqueous sodium hydroxide (50 ml) and the solution was refluxed under heating for 2 hours. The reaction mixture was concentrated in vacuo to dryness and to the residue was added water. The mixture was extracted with chloroform and the organic layer was dried on sodium sulfate. After removal of the solvent the residue was purified with silica gel chromatography (1% methanol/chloroform) to give the subject compound (99 mg, yield 93%).

reactant | 6-amino-9-benzyl-8-bromo-2-propoxypurine | 0.339 mmol, 123 mg | NC1=C2N=C(N(C2=NC(=N1)OCCC)CC1=CC=CC=C1)Br | C15H16BrN5O
reactant | sodium hydroxide | 10N, 50 ml | [OH-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
product | 6-Amino-9-benzyl-8-methoxy-2-propoxypurine | 99 mg, yield 93% | NC1=C2N=C(N(C2=NC(=N1)OCCC)CC1=CC=CC=C1)OC | C16H19N5O2
